US07465726B2
1-{4-[4-(3-Methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-3-piperidin-1-yl-propan-1-one
Into the suspension of (3-methyl-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydro pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride (122 mg, 0.190 mmol), 1-piperidinepropanoic acid (48.4 mg, 0.305 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDC-HCl) (76.7 mg, 0.400 mmol) and 1-hydroxy benzotriazole (HOBt-H2O) (30.6 mg, 0.200 mmol) in DMF (4.5 mL) was added N,N-diisopropylethylamine (167 μL, 0.952 mmol) under N2 at rt. The reaction mixture, which became a clear wine-red solution, was stirred at rt for 18 h. After that time, the reaction mixture was treated with water/saturated NaHCO3 (5 mL/5 mL) and extracted with EtOAc (4×20 mL). The combined extracts were washed with water (2×20 mL) and brine (20 mL), dried over MgSO4, filtered and concentrated in vacuo to obtain a light-brown oil that was purified using the mass-directed purification system to yield the title compound as yellow oil. 1H NMR (CD3OD, 400 MHz): δ=1.69 (brs, 2H), 1.88 (brs, 4H), 2.57 (s, 3H), 2.66 (brs, 2 H), 2.95-3.03 (m, 2H), 3.32 (brs, 4H), 3.41 (t, 2H, J=6.0 Hz), 3.76 (t, 1H, J=5.4 Hz), 3.85 (t, 1H, J=5.6 Hz), 4.28 (brs, 2H), 6.30 (d, 1H, J=2.8 Hz), 6.51-6.55 (m, 1H), 7.49 (d, 1H, J=8.4 Hz), 7.55-7.59 (m, 1H), 7.98-8.00 (m, 1H), 8.19 (s, 1H), 8.42 (s I H). MS (ES+): m/z 485.00 (70) [MH+]. HPLC: tR=1.70 min (ZQ2000, polar—5 min).

reactant | (3-methyl-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydro pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride | 0.190 mmol, 122 mg | Cl.Cl.Cl.CC1=NNC2=CC=C(C=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2
reactant | 1-piperidinepropanoic acid | 0.305 mmol, 48.4 mg | N1(CCCCC1)CCC(=O)O | C8H15NO2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.400 mmol, 76.7 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy benzotriazole | 0.200 mmol, 30.6 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropylethylamine | 0.952 mmol, 167 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | 1-{4-[4-(3-Methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-3-piperidin-1-yl-propan-1-one | CC1=NNC2=CC=C(C=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(CCN2CCCCC2)=O | C27H32N8O
